US08486952B2
A mixture of 30% hydrogen peroxide (23 mL, 149 mmol) and 85% formic acid (100 mL, 2619 mmol) was heated at 40° C. for 15 minutes. The mixture was carefully added to cyclopentenylbenzene (21.49 g, 149 mmol) and the resulting two-phase system was vigorously stirred at room temperature for 4 h. An exothermic reaction was observed in the beginning. In the end of the stirring the solution became homogeneous. The reaction mixture was carefully quenched with saturated aqueous solution of sodium bicarbonate. The product was extracted with ether. The combined etherial layers were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the product was purified by column chromatography on silica gel to give 2-phenylcyclopentanone (19.995 g, 125 mmol, 84% yield) as brown oil. LC-MS (M+H)+=161.0. 1H NMR (500 MHz, CDCl3) δ ppm 7.38 (1H, t, J=7.3 Hz), 7.30-7.35 (2H, m), 7.19 (2H, d, J=7.3 Hz), 3.28-3.37 (1H, m), 2.71 (1H, td, J=4.6, 2.7 Hz), 2.58-2.63 (1H, m), 2.43-2.55 (1H, m), 2.29 (1H, ddd, J=19.0, 10.5, 9.0 Hz), 2.07-2.21 (1H, m), 1.88-1.99 (1H, m).

reactant | hydrogen peroxide | 149 mmol, 23 mL | OO | H2O2
reactant | formic acid | 2619 mmol, 100 mL | C(=O)O | CH2O2
reactant | cyclopentenylbenzene | 149 mmol, 21.49 g | C1(=CCCC1)C1=CC=CC=C1 | C11H12
product | 2-phenylcyclopentanone | 125 mmol, 19.995 g, 84% yield | C1(=CC=CC=C1)C1C(CCC1)=O | C11H12O
